US07947738B2
(42-c) (±)-(1R,5S)-3-vinylspiro[bicyclo[3.2.0]hept-3-ene-6,2′-[1,3]dioxolane]
Lithium chloride (1.97 g, 46.4 mmol), tetrakis(triphenylphosphine)palladium (0) (0.36 g, 0.31 mmol), and tributyl(vinyl)tin (2.47 mL, 8.50 mmol) were added to a tetrahydrofuran solution (60 mL) of (±)-(1R,5S)-spiro[bicyclo[3.2.0]hept-3-ene-6,2′-[1,3]dioxolan]-3-yl trifluoromethanesulfonate (2.32 g, 7.73 mmol). The mixture was heated to reflux for 2 hours, and water was then added to the reaction solution, followed by extraction with diethyl ether. The organic layer was washed with saturated saline and dried over anhydrous sodium sulfate. The residue was filtered and concentrated under reduced pressure. Then, the obtained crude product was purified by silica gel column chromatography to obtain the compound of interest as an oil substance (990 mg, 72%).

reactant | Lithium chloride | 46.4 mmol, 1.97 g | [Cl-].[Li+]
reactant | tributyl(vinyl)tin | 8.50 mmol, 2.47 mL | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
reactant | (±)-(1R,5S)-spiro[bicyclo[3.2.0]hept-3-ene-6,2′-[1,3]dioxolan]-3-yl trifluoromethanesulfonate | 7.73 mmol, 2.32 g | FC(S(=O)(=O)OC=1C[C@@H]2CC3(OCCO3)[C@@H]2C1)(F)F | C10H11F3O5S
catalyst | tetrakis(triphenylphosphine)palladium | 0.31 mmol, 0.36 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | (±)-(1R,5S)-3-vinylspiro[bicyclo[3.2.0]hept-3-ene-6,2′-[1,3]dioxolane] | C(=C)C=1C[C@@H]2CC3(OCCO3)[C@@H]2C1 | C11H14O2
